US06689922B1
7-{3-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylheptan-2-ol
In a manner similar to Example 25(d), by reacting 0.56 ml of concentrated sulphuric acid with 2.30 g (3.37 mmol) of 2-[6-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran in 30 ml of THF and 10 ml of water, after purification on a silica column (ethyl acetate 80-heptane 20), white crystals (m=475 mg; Y=38%) are obtained. m.p.=93-5° C.

reactant | sulphuric acid | 0.56 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-[6-(3-{2-[3,4-bis-(tert-butyldimethylsilanyloxymethyl)phenyl]vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran | 3.37 mmol, 2.30 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)C=CC=1C=C(C=CC1)CCCCCC(OC1OCCCC1)(C)C | C41H68O4Si2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 7-{3-[2-(3,4-bis-Hydroxymethylphenyl)vinyl]phenyl}-2-methylheptan-2-ol | OCC=1C=C(C=CC1CO)C=CC=1C=C(C=CC1)CCCCCC(C)(O)C | C24H32O3
